US03969463
4,6-Dichloro-2-trifluoromethylquinoline was reduced with platinum on carbon to give 6-chloro-2-trifluoromethyltetrahydroquinoline.

reactant | 4,6-Dichloro-2-trifluoromethylquinoline | ClC1=CC(=NC2=CC=C(C=C12)Cl)C(F)(F)F | C10H4Cl2F3N
catalyst | platinum on carbon | [Pt] | Pt
product | 6-chloro-2-trifluoromethyltetrahydroquinoline | ClC=1C=C2CCC(NC2=CC1)C(F)(F)F | C10H9ClF3N
